US05356926
5-[[[5-Methoxy-3-(1-methylethoxy)benzo[b]thien2-yl]carbonyl]amino]pentanoic acid
Methyl 5-[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]aminovalerate (250 mg, 0.66 mmol) and 83 mg of LiOH-H2O in a mixture of 5 mL of methanol and 2 mL of water are stirred at room temperature for 7 hours. The reaction mixture is partitioned between ethyl acetate and aqueous HCl. The organic layer is washed with water, then brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. Recrystallization from ethyl acetate:hexane gives 205 mg of product (85%); mp 135°-137° C.

reactant | Methyl 5-[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]aminovalerate | 0.66 mmol, 250 mg | COC1=CC2=C(SC(=C2OC(C)C)C(=O)NCCCCC(=O)OC)C=C1 | C19H25NO5S
reactant | LiOH-H2O | 83 mg | O[Li].O
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 5-[[[5-Methoxy-3-(1-methylethoxy)benzo[b]thien2-yl]carbonyl]amino]pentanoic acid | 205 mg, 85% | COC1=CC2=C(SC(=C2OC(C)C)C(=O)NCCCCC(=O)O)C=C1 | C18H23NO5S
